US04420424
(C) H-Glu(OBut)-Val-Val-OMe.HCl
13 g of Z-Glu(OBut)-Val-Val-OMe are suspended in about 150 ml of methanol. The suspension is subjected to catalytic hydrogenation at pH 4.5 after adding Pd-on-BaSO4 and 2 N methanolic hydrochloric acid. When the reaction is complete the catalyst is filtered off and the filtrate is concentrated. The residue crystallizes on being triturated with ether. Yield 9.55 g, melting point 192°, [α]D23 =-20.9° (c=1, in methanol).

reactant | Z-Glu(OBut)-Val-Val-OMe | 13 g | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C28H43N3O8
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | methanol | about 150 ml | CO | CH4O
product | H-Glu(OBut)-Val-Val-OMe.HCl | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)OC.Cl | InChI=1S/C20H37N3O6.ClH/c1-11(2)15(18(26)23-16(12(3)4)19(27)28-8)22-17(25)13(21)9-10-14(24)29-20(5,6)7;/h11-13,15-16H,9-10,21H2,1-8H3,(H,22,25)(H,23,26);1H/t13-,15-,16-;/m0./s1
